US08357694B2
(S)-6-(4-fluorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine
This was synthesized by using (S)-4-(6-(4-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, 2-(4-(2-methoxyethyl)piperazin-1-yl)ethanamine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=195-198° C.; 1H NMR (CDCl3/DMSO-d6) 400 MHz δ 8.37 (d, J=7.0 Hz, 1H), 8.03, (s, 1H), 7.73 (d, J=8.2 Hz, 2H), 7.63 (s, 3H), 7.54-7.57 (m, 2H), 7.34-7.37 (d, J=7.0 Hz, 1H) 1H), 8.01 (brs, 1H), 7.69 (d, J=6.6 Hz, 2H), 7.58-7.59 (m, 2H), 7.35 (d, J=8.6 Hz, 2H), 7.12 (d, J=7.0 Hz, 1H), 7.05-7.08 (m, 2H), 7.01, 7.04 (m, 2H), 4.43 (t, J=7.0 Hz, 1H), 3.89-3.91 (m, 7H), 3.39 (s, 5H), 3.28-3.30 (m, 2H), 2.02 (s, 2H). LCMS m/e 538 [M+H].

reactant | (S)-4-(6-(4-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC=C(C=C1)F)C=CC=C3 | C27H24FN3O3S
reactant | 2-(4-(2-methoxyethyl)piperazin-1-yl)ethanamine | COCCN1CCN(CC1)CCN | C9H21N3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-6-(4-fluorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine | FC1=CC=C(C=C1)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCN(CC2)CCOC | C33H36FN5O
